US07683056B2
2-[3,5-bis(trifluoromethyl)phenyl]-N-(4-(4-fluoro-2-methylphenyl)-6-{[(2S)-2-pyrrolidinylmethyl]amino}-3-pyridinyl)-N,2-dimethylpropanamide (D62)
A suspension of 2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-chloro-4-(4-fluoro-2-methylphenyl)-3-pyridinyl]-N,2-dimethylpropanamide [WO 2005/002577] (1.5 g, 2.81 mmol) 1,1-dimethylethyl (2R)-2-(aminomethyl)-1-pyrrolidinecarboxylate (N-Boc prolinamine) (1.41 g, 7.025 mmol) and potassium carbonate (777 mg, 5.62 mmol) in 6 mL of DMSO was heated for 18 h at 150° C. (temperature detected 138° C.). A HPLC/MS check showed a 50% conversion with partial loss of the Boc protecting group. The reaction was heated under microwave irradiation to 160° C. for 1 h and to 180° C. for two cycles of 1 h and 1.5 h, respectively. The suspension was diluted with dichloromethane and extracted with sat. NaHCO3 and the organics were dried (Na2SO4) and the solution was loaded on a SCX cartridge, washed with dichloromethane (100 mL) and methanol (200 mL, this wash allowed the recovery of the unreacted chloropyridine) and eluted with 2M NH3 in MeOH. The crude thus obtained, which contained both the Boc-protected and unprotected compounds, was purified by flash chromatography (silica, cyclohexane: EtOAc 80:20 to EtOAc). Isolated 350 mg of Boc-protected amine and 410 mg of the title compound. This last compound was purified further by a boc-protection, flash chromatography, TFA deprotection and SCX isolation procedure. Final yield: 165 mg. O.A. HPLC, peak @ 5.20 min, >99% purity (UV).

reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-chloro-4-(4-fluoro-2-methylphenyl)-3-pyridinyl]-N,2-dimethylpropanamide | 2.81 mmol, 1.5 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)Cl)(C)C)(F)F | C25H20ClF7N2O
reactant | 1,1-dimethylethyl (2R)-2-(aminomethyl)-1-pyrrolidinecarboxylate | 7.025 mmol, 1.41 g | NC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | potassium carbonate | 5.62 mmol, 777 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[3,5-bis(trifluoromethyl)phenyl]-N-(4-(4-fluoro-2-methylphenyl)-6-{[(2S)-2-pyrrolidinylmethyl]amino}-3-pyridinyl)-N,2-dimethylpropanamide | 410 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)NC[C@H]1NCCC1)(C)C)(F)F | C30H31F7N4O
